US07501430B2
3e: Preparation of tert-butyl 4-{[amino(imino)methyl]amino}piperidine-1-carboxylate hydrochloride
To a mixture of tert-butyl 4-aminopiperidine-1-carboxylate (8.93 g, 44.6 mmol) and pyrazole carbox-amidine hydrochloride (6.536 g, 44.6 mmol) was added Hunig's base (7.77 ml, 44.6 mmol) and DMF (25 ml). The reaction was heated at 60° C. for 15 hours. The reaction was then cooled to room temperature and quenched by adding 400 ml of diethyl ether and stirring at room temperature for 2 hours. Product separated out as a white solid, which was filtered, washed and dried (10.9 g, 88%). M.p.=169-172° C.; 400 MHz 1H NMR (DMSO-d6) δ: 8.09 (d, J=8.8 HZ, 1H), 6.9-7.9 (br. s, 3H), 3.83 (d, J=13.6 Hz, 2H), 3.63 (m, 1H), 2.88 (m, 2H), 1.80 (m, 2H), 1.40 (s, 9H), 1.25 (m, 2H); LCMS: 243 [M+H]; calc. for C11H22N4O2.1.06HCl.0.2H2O: C, 46.39; H, 8.31; N, 19.68. Found C, 46.43; H, 8.31; N, 20.68.

reactant | tert-butyl 4-aminopiperidine-1-carboxylate | 44.6 mmol, 8.93 g | NC1CCN(CC1)C(=O)OC(C)(C)C | C10H20N2O2
reactant | pyrazole carbox-amidine hydrochloride | 44.6 mmol, 6.536 g | Cl.N1N=C(C=C1)C(=N)N
reactant | Hunig's base | 44.6 mmol, 7.77 ml | CCN(C(C)C)C(C)C | C8H19N
solvent | DMF | 25 ml | CN(C)C=O | C3H7NO
product | tert-butyl 4-{[amino(imino)methyl]amino}piperidine-1-carboxylate hydrochloride | Cl.NC(=N)NC1CCN(CC1)C(=O)OC(C)(C)C | InChI=1S/C11H22N4O2.ClH/c1-11(2,3)17-10(16)15-6-4-8(5-7-15)14-9(12)13;/h8H,4-7H2,1-3H3,(H4,12,13,14);1H
